US04244960
1.25 g of 5-amino-6-phenoxyindan-1-carbonitrile in 17 ml of methylene chloride are stirred for 16 hours at 20° C. with 1 g of triethylamine and 1.3 g of methanesulphonic acid anhydride. After concentrating, the residue is taken up in chloroform and the chloroform solution is washed with hydrochloric acid, water and sodium hydroxide solution. Concentration of the chloroform phase and recrystallisation of the residue from isopropanol/diisopropyl ether yields 1.49 g of 5-[bis(methylsulphonyl)amino]-6-phenoxyindan-1-carbonitrile having a melting point of 200° C.

reactant | 5-amino-6-phenoxyindan-1-carbonitrile | 1.25 g | NC=1C=C2CCC(C2=CC1OC1=CC=CC=C1)C#N | C16H14N2O
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic acid anhydride | 1.3 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | 5-[bis(methylsulphonyl)amino]-6-phenoxyindan-1-carbonitrile | 1.49 g | CS(=O)(=O)N(C=1C=C2CCC(C2=CC1OC1=CC=CC=C1)C#N)S(=O)(=O)C | C18H18N2O5S2
